US07790728B2
6-(5-Methylfuran-2-yl)-5-phenylpyrazin-2-ylamine
An oven dried resealable Schlenk tube was charged with 6-chloro-5-pyridin-4-ylpyrazin-2-amine (Preparation 7, 300 mg, 1.45 mmol), 2-methylfuran (1.31 mL, 14.5 mmol), potassium acetate (213 mg, 2.17 mmol) and N,N-dimethylacetamide (6 mL). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium (117 mg, 0.10 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in a 150° C. oil bath. After 40 h, the mixture was cooled, partitioned between water and ethyl acetate, the aqueous phase extracted with ethyl acetate (×3), the organic layers washed with brine, dried (MgSO4) and evaporated. Flash chromatography (dichloromethane/methanol 98:2 to dichloromethane/methanol 90:10) furnished the title compound as a brown solid (45 mg, 12%).

reactant | 6-chloro-5-pyridin-4-ylpyrazin-2-amine | 1.45 mmol, 300 mg | ClC1=C(N=CC(=N1)N)C1=CC=NC=C1 | C9H7ClN4
reactant | 2-methylfuran | 14.5 mmol, 1.31 mL | CC=1OC=CC1 | C5H6O
reactant | potassium acetate | 2.17 mmol, 213 mg | C(C)(=O)[O-].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.10 mmol, 117 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
product | 6-(5-Methylfuran-2-yl)-5-phenylpyrazin-2-ylamine | 45 mg, 12% | CC1=CC=C(O1)C1=C(N=CC(=N1)N)C1=CC=CC=C1 | C15H13N3O
